US06657060B2
In analogy to example 12c),by heating (E)-2-[2-(3-methoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol (0.6 g, 2.48 mmol) in POCl3 (4.6 ml, 29.5 mmol) at 130° C. for 4.5 h there was obtained (E)-4-chloro-2-[2-(3-methoxy-phenyl)-vinyl]-6-methyl-pyrimidine (0.53 g, 82%) as an orange solid. ISP mass spectrum, m/e: 261.2 (M+1 calculated for C14H13ClN2O: 261).

reactant | (E)-2-[2-(3-methoxy-phenyl)-vinyl]-6-methyl-pyrimidin-4-ol | 2.48 mmol, 0.6 g | COC=1C=C(C=CC1)/C=C/C1=NC(=CC(=N1)O)C | C14H14N2O2
reactant | POCl3 | 29.5 mmol, 4.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-2-[2-(3-methoxy-phenyl)-vinyl]-6-methyl-pyrimidine | 0.53 g, 82% | ClC1=NC(=NC(=C1)C)\C=C\C1=CC(=CC=C1)OC | C14H13ClN2O
